US05616586
trans-9-Bromo-5-(o-ethoxycarbonylphenylcarbamoylmethyl)-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with trans-9-bromo-5-carboxymethyl-6-methyl-6,7-dihydro- 1H, 5 H-pyrido[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0,849 mmol) and o-ethoxycarbonylaniline (147 mg, 0.891 mmol) to give 153 mg of the title compound (36%): mp 238°~248° C.; 1H NMR (270 MHz, DMSO-d6) δ11.39 (s, 1H), 11.31 (s, 1H), 8.66 (d, 2H, J=8.4 Hz), 8.04 (dd, 1H, J=8.4, 1.7 Hz), 7.55 (td, 1H, J=8.4, 1.7 Hz), 7.35 (d, 1H, J=1.9 Hz), 7.19 (d, 1H, J=1.9 Hz), 7.11 (td, 1H, J=8.4, 1.7 Hz), 5.19~5.29 (m, 1H), 4.37 (q, 2H, J=7.3 Hz), 3.29 (dd, 1H, J=17.0, 5.1 Hz), 2.97 (dd, 1H, J=14.5, 4.6 Hz), 2.55~2.70 (m, 3H), 1.40 (t, 3H, J=7.3 Hz), 0.88 (d, 3H, J=6.9 Hz).

reactant | trans-9-bromo-5-carboxymethyl-6-methyl-6,7-dihydro- 1H, 5 H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0,849 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@H]([C@@H](C2)C)CC(=O)O | C14H13BrN2O4
reactant | o-ethoxycarbonylaniline | 0.891 mmol, 147 mg | C(C)OC(=O)C1=C(N)C=CC=C1 | C9H11NO2
product | trans-9-Bromo-5-(o-ethoxycarbonylphenylcarbamoylmethyl)-6-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 153 mg, 36% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@H]([C@@H](C2)C)CC(NC2=C(C=CC=C2)C(=O)OCC)=O | C23H22BrN3O5
